US08895745B2
2-(tetrahydro-pyran-4-yloxy)-4-pyridinylboronic acid
To 4-bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine (0.2 g, 0.77 mmol) in DMSO (5 ml) (degassed by bubbling N2 through) was added 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (0.39 g, 1.55 mmol) and potassium acetate (0.27 g, 2.31 mmol). PdCl2ddpf (0.028 g, 0.04 mmol) was added, the reaction mixture again degassed and then heated at 100° C. for 5 h. The compound was passed through a C18 reverse phase chromatography column to afford desired product, used crude. MS: [MH]+ 224.

reactant | 4-bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine | 0.77 mmol, 0.2 g | BrC1=CC(=NC=C1)OC1CCOCC1 | C10H12BrNO2
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.55 mmol, 0.39 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.31 mmol, 0.27 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2-(tetrahydro-pyran-4-yloxy)-4-pyridinylboronic acid | O1CCC(CC1)OC1=NC=CC(=C1)B(O)O | C10H14BNO4
